US07956066B2
B. 2-[4-(1-Methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde.
To a stirred solution of 2-[4-(1-methyl-piperidin-4-yl)-butoxy]-isonicotinonitrile (0.44 g, 1.61 mmol) in toluene (5 mL) at 0° C. was added a 1.5 M DIBAL-H in toluene (2.41 mL, 2.41 mmol). The reaction mixture was allowed to warm to rt. After 3 h, methanol (8 mL) and 1.0 M H2SO4 (5 mL) were added dropwise. After 30 min, the mixture was neutralized with 1.0 M NaOH (10 mL) followed by addition of satd. aq. sodium potassium tartrate (40 mL) and CH2Cl2 (100 mL). After 30 min the mixture was extracted with CHCl3 (3×50 mL) and washed with brine. The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the mixture by Method 1 afforded 318 mg (64%) of the title compound. 1H NMR (400 MHz, CDCl3): 10.0 (s, 1H), 8.34 (d, J=5.3, 1H), 7.28 (d, J=1.3, 1H), 7.14-7.12 (m, 1H), 4.33 (t, J=6.6, 2H), 2.87-2.80 (m, 2H), 2.25 (s, 3H), 1.93-1.65 (m, 6H), 1.52-1.42 (m, 2H), 1.35-1.07 (m, 5H).

reactant | 2-[4-(1-methyl-piperidin-4-yl)-butoxy]-isonicotinonitrile | 1.61 mmol, 0.44 g | CN1CCC(CC1)CCCCOC=1C=C(C#N)C=CN1 | C16H23N3O
reactant | DIBAL-H | 1.5 M | CC(C)C[AlH]CC(C)C
reactant | H2SO4 | 1.0 M, 5 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | 1.0 M, 10 mL | [OH-].[Na+]
reactant | sodium potassium tartrate | 40 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.41 mmol, 2.41 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 8 mL | CO | CH4O
product | 2-[4-(1-Methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde | 318 mg, 64% | CN1CCC(CC1)CCCCOC1=NC=CC(=C1)C=O | C16H24N2O2
